US06548538B2
Similarly to the procedure of Example I-5, 1.20 g (4.54 mmol) of tert-butyl 2-(4-formylphenoxy)-2-methylpropionate (Example I-4) and 0.70 g (4.54 mmol) of methyl DL-2-aminobutyrate are reacted at room temperature with 0.92 g (9.08 mmol) of triethylamine and 1.44 g (6.81 mmol) of sodium triacetoxyborohydride in 10 ml of dichloroethane. A further 0.9 g (4.25 mmol) of sodium triacetoxyborohydride and 0.35 g (2.27 mmol) of methyl DL-2-aminobutyrate are added and the mixture is heated at 40° C. for 3 h, giving 1.47 g (89%) of methyl 2-{[4-(2-tert-butoxy-1,1-dimethyl-2-oxoethoxy)benzyl]amino}butyrate.

reactant | tert-butyl 2-(4-formylphenoxy)-2-methylpropionate | 4.54 mmol, 1.20 g | C(=O)C1=CC=C(OC(C(=O)OC(C)(C)C)(C)C)C=C1 | C15H20O4
reactant | 2-aminobutyrate | NC(C(=O)[O-])CC
reactant | triethylamine | 9.08 mmol, 0.92 g | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 6.81 mmol, 1.44 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 4.25 mmol, 0.9 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
product | methyl 2-{[4-(2-tert-butoxy-1,1-dimethyl-2-oxoethoxy)benzyl]amino}butyrate | 1.47 g, 89% | C(C)(C)(C)OC(C(OC1=CC=C(CNC(C(=O)OC)CC)C=C1)(C)C)=O | C20H31NO5
